US06143276
A copolymer of poly-d-L-lactide is dissolved in methylethyl ether (b.p. 10.8° C.) at a polymer concentration of 10 mg/mL. To the mixture is added 1-bromoperfluorobutane to yield a perfluorohexane concentration of 2 mg/mL. The mixture is maintained in an ice water bath and agitated vigorously by sonication, as in Example 6. Water is then added to yield approximately 10 parts water for every one part ether. The mixture is then shaken in a Wig-L-Bug, producing a 1-bromoperfluorobutane-in-ether-in-water emulsion, equivalent to an oil-in-oil-in-water emulsion. The temperature is gradually increased and the pressure reduced resulting in evaporation of the ether phase. The poly-d-L-lactide copolymer precipitate out on the surface of the 1-bromoperfluorobutane, resulting in a suspension of 1-bromoperfluorobutane microspheres coated by a polymeric shell of poly-d-L-lactide.

reactant | 1-bromoperfluorobutane | BrC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C4BrF9
solvent | methylethyl ether | COCC | C3H8O
product | perfluorohexane | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C6F14
